US06797718B2
Under a nitrogen atmosphere, a solution of tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate (89.0 g, 434 mmol) in dichloromethane (1.5 L) was cooled to 0° C.; triethylamine (90.7 mL, 650 mmol) was added dropwise. Methanesulfonyl chloride (36.9 mL, 477 mmol) was then added over a period of 45 minutes. A precipitate formed, and the reaction became yellow. The reaction was allowed to warm to room temperature and stirred overnight. Saturated aqueous sodium bicarbonate (750 mL) was added. The organic layer was then sequentially washed with water (3×500 mL) and brine (250 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 119.2 g of 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate as a light orange oil.

reactant | tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate | 434 mmol, 89.0 g | OCCOCCNC(OC(C)(C)C)=O | C9H19NO4
reactant | triethylamine | 650 mmol, 90.7 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 477 mmol, 36.9 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 750 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
product | 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate | 119.2 g | CS(=O)(=O)OCCOCCNC(=O)OC(C)(C)C | C10H21NO6S
